US04966730
Trans-4-(3-Hydroxypropyloxy)-4'-Nitrostilbene
4-Nitrophenylacetic acid (131.4 g, 0.73 mole), -(3-hydroxypropyloxy)benzaldehyde (130.8 g, 0.73 mole, prepared as in U.S. Patent 2,824,084), piperidine (14.2 g, 0.17 mole) and dimethylacetamide were placed in a 1 L round-bottom flask fitted with a mechanical stirrer, a condenser and a thermometer connected to a controller and a heating mantle. The resulting mixture was stirred and warmed to 80° C., at which temperature a brisk evolution of gas was induced. Stirring was continued at 80° C. for 18 h. The mixture was then poured into a beaker and stirred and diluted to 3 L with ice and water. The solid that appeared was collected by filtration, washed with water and dried to give a deep yellow product (142 g). Two crystallizations from aqueous ethanol afforded the analytical sample (76.9 g, 35%).

reactant | 4-Nitrophenylacetic acid | 0.73 mole, 131.4 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | (3-hydroxypropyloxy)benzaldehyde | 0.73 mole, 130.8 g | OCCCOC1=C(C=O)C=CC=C1 | C10H12O3
reactant | piperidine | 0.17 mole, 14.2 g | N1CCCCC1 | C5H11N
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | Trans-4-(3-Hydroxypropyloxy)-4'-Nitrostilbene | 142 g | OCCCOC1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C17H17NO4
